US07557114B2
(c) 4-(2,3-Dihydro-1H-isoindol-5-yl)-tetrahydro-pyran-4-ol
To a stirred solution 0.39 mmol 4-(2-benzyl-2,3-dihydro-1H-isoindol-5-yl)-tetrahydro-pyran-4-ol in 20 ml methanol was added 40 mg 10% palladium on charcoal and the mixture was stirred under an atmosphere of hydrogen for 3 h. The reaction mixture was then filtered and the filtrate was concentrated in vacuo to yield the title compound as a yellow solid (100% yield). MS (m/e): 220.3 ([M+H]+, 100%).

reactant | 4-(2-benzyl-2,3-dihydro-1H-isoindol-5-yl)-tetrahydro-pyran-4-ol | C(C1=CC=CC=C1)N1CC2=CC=C(C=C2C1)C1(CCOCC1)O | C20H23NO2
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium on charcoal | 40 mg | [Pd] | Pd
product | 4-(2,3-Dihydro-1H-isoindol-5-yl)-tetrahydro-pyran-4-ol | 100% yield | C1NCC2=CC(=CC=C12)C1(CCOCC1)O | C13H17NO2
